US05428044
2,6-Dimethyl-4-(1-phenyl-1H-pyrazol-3-yl)aminophenyl cyanoacetate
2,6-Dimethyl-4-(1-phenyl-1H-pyrazol-3-yl)aminophenyl chloroacetate, Example 4k, (1 g) and sodium cyanide (0.5 g) stirred in dimethyl sulfoxide for 16 hours gave, after dilution with brine, extraction with ethyl acetate and subsequent evaporation, the title compound (0.3 g), mp 116°-117° (from ethyl acetate/hexane).

reactant | 2,6-Dimethyl-4-(1-phenyl-1H-pyrazol-3-yl)aminophenyl chloroacetate | ClCC(=O)OC1=C(C=C(C=C1C)NC1=NN(C=C1)C1=CC=CC=C1)C | C19H18ClN3O2
reactant | sodium cyanide | 0.5 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2,6-Dimethyl-4-(1-phenyl-1H-pyrazol-3-yl)aminophenyl cyanoacetate | C(#N)CC(=O)OC1=C(C=C(C=C1C)NC1=NN(C=C1)C1=CC=CC=C1)C | C20H18N4O2
